US04064236
Acetylalanylalanylleucine benzyl ester (2 mmole) is dissolved in denaturated ethyl alcohol (0.5 gal. benzene added to 100 gal. of absolute ethanol) (15 ml) and hydrogenated over 10% palladium/charcoal (0.1 gm) at 40 psi for 1/2 hour. The solution was filtered through Celite and evaporated in vacuo. The residue is triturated with diethyl ether to give crystalline acetylalanylalanylleucine, m.p. 185°-186°.

reactant | Acetylalanylalanylleucine benzyl ester | 2 mmole | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC(C)=O)C)=O)C)=O)CC(C)C)=O | C21H31N3O5
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 0.1 gm | [Pd] | Pd
product | acetylalanylalanylleucine | C(C)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)O | C14H25N3O5
